US08293746B2
Step 22.2: 4-(4-Ethyl-piperazin-1-yl)-2-methoxy-phenylamine
A suspension of 1-ethyl-4-(3-methoxy-4-nitro-phenyl)-piperazine (4 g, 15.1 mmol) and Raney Nickel (1 g) in MeOH (80 mL) is stirred for 10.5 h at RT, under a hydrogen atmosphere. The reaction mixture is filtered through a pad of celite and concentrated to afford the title compound as a brown oil: ESI-MS: 236.2 [MH]+; tR=0.95 min (system 1).

reactant | 1-ethyl-4-(3-methoxy-4-nitro-phenyl)-piperazine | 15.1 mmol, 4 g | C(C)N1CCN(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])OC | C13H19N3O3
catalyst | Raney Nickel | 1 g | [Ni] | Ni
solvent | MeOH | 80 mL | CO | CH4O
product | 4-(4-Ethyl-piperazin-1-yl)-2-methoxy-phenylamine | C(C)N1CCN(CC1)C1=CC(=C(C=C1)N)OC | C13H21N3O
